US07872014B2
A solution of 4-(7-fluoro-2,3-dihydro-1,4-benzodioxin-5-yl)-3-methyl-1H-pyrazol-5-amine (109 mg, 0.338 mmol) and 5-chloro-2-fluoro-4-hydroxybenzaldehyde (60 mg, 0.338 mmol) in trifluoroacetic acid (2.0 mL) was heated to 75° C. and allowed to stir for 12 h. The reaction mixture was concentrated in vacuo and the residue was purified by reverse phase HPLC to afford 5.8 mg (4.2%) of 2-Chloro-5-fluoro-4-(6-fluoro-11-methyl-2,3-dihydro-9H-[1,4]dioxino[2,3-f]pyrazolo[3,4-c]isoquinolin-7-yl)phenol as a white powder: 1H NMR (400 MHz, d4-MeOH): 7.67 (d, J=7.6 Hz, 1H), 7.07 (d, J=13.2 Hz, 1H), 6.85 (d, J=10.8 Hz, 1H) 4.59-4.56 (m, 4H), 2.99 (s, 3H); MS (EI) for C19H12ClF2N3O3: 404 (MH+).

reactant | 4-(7-fluoro-2,3-dihydro-1,4-benzodioxin-5-yl)-3-methyl-1H-pyrazol-5-amine | 0.338 mmol, 109 mg | FC=1C=C(C2=C(OCCO2)C1)C=1C(=NNC1N)C | C12H12FN3O2
reactant | 5-chloro-2-fluoro-4-hydroxybenzaldehyde | 0.338 mmol, 60 mg | ClC=1C(=CC(=C(C=O)C1)F)O | C7H4ClFO2
solvent | trifluoroacetic acid | 2.0 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Chloro-5-fluoro-4-(6-fluoro-11-methyl-2,3-dihydro-9H-[1,4]dioxino[2,3-f]pyrazolo[3,4-c]isoquinolin-7-yl)phenol | 5.8 mg, 4.2% | ClC1=C(C=C(C(=C1)C1=NC2=C(C3=C4C(=CC(=C13)F)OCCO4)C(=NN2)C)F)O | C19H12ClF2N3O3
